US07601714B2
MCPBA (60%, 5.82 g, 20.2 mmol) was added to a solution of (2-methylsulfanyl-benzyl)-carbamic acid tert-butyl ester (2.5 g, 9.87 mmol) in DCM (100 mL) which was pre-cooled to 0 degrees C. After 5 h, 100 ml of a 10% aqueous solution of sodium sulfite (Na2SO3) was added to the reaction and the organic layers were collected, washed with saturated aqueous sodium carbonate (50 mL), dried over MgSO4, filtered and concentrated in-vacuo. Chromatography (silica, 0-15% MeOH in DCM) yielded 1.885 g of (2-methanesulfonyl-benzyl)-carbamic acid tert-butyl ester as an off-white solid.

reactant | MCPBA | 20.2 mmol, 5.82 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | (2-methylsulfanyl-benzyl)-carbamic acid tert-butyl ester | 9.87 mmol, 2.5 g | C(C)(C)(C)OC(NCC1=C(C=CC=C1)SC)=O | C13H19NO2S
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (2-methanesulfonyl-benzyl)-carbamic acid tert-butyl ester | 1.885 g | C(C)(C)(C)OC(NCC1=C(C=CC=C1)S(=O)(=O)C)=O | C13H19NO4S
